US04410520
A solution of 1-benzyloxycarbonylmethyl-3-(1-ethoxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (isomer A of example 3; 1.2 g) in ethanol (125 ml) was hydrogenated at room temperature and atmospheric pressure, using 10% palladium on charcoal (0.5 g) as catalyst. After uptake of hydrogen had ceased, the catalyst was filtered off, and the solvent removed under reduced pressure to give a solid. This material was triturated with ether (8 ml) to give 1-carboxymethyl-3-(1-ethoxycarbonyl-3-phenylpropylamino)-2,-3,4,5-tetrahydro-1H-[1]benzazepin-2-one melting at 126°-129°, and being the lower melting racemic isomer A.

reactant | 1-benzyloxycarbonylmethyl-3-(1-ethoxycarbonyl-3-phenylpropylamino)-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | C(C1=CC=CC=C1)OC(=O)CN1C(C(CCC2=C1C=CC=C2)NC(CCC2=CC=CC=C2)C(=O)OCC)=O | C31H34N2O5
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 125 ml | C(C)O | C2H6O
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 1-carboxymethyl-3-(1-ethoxycarbonyl-3-phenylpropylamino)-2,-3,4,5-tetrahydro-1H-[1]benzazepin-2-one | C(=O)(O)CN1C(C(CCC2=C1C=CC=C2)NC(CCC2=CC=CC=C2)C(=O)OCC)=O | C24H28N2O5
